US08710049B2
To a round bottom flask under argon was added the ethyl 4-(3-oxopyrrolidin-1-yl)benzoate (1.23 g, 5.27 mmol), (1R,2R)-cyclohexane-1,2-diamine (0.602 g, 5.27 mmol), CH2Cl2 (30 ml), solid anhydrous Na2SO4 (2.5 gm) and HOAc (1 ml). Argon was bubbled through the reaction mixture for 1 min and then the reaction was stirred under argon at rt for 1 hr. After this time, sodium triacetoxy borohydride (2.012 g, 9.49 mmol) was added to the reaction which was then stirred at rt overnight. The reaction was filtered and water (10 ml) was added to the reaction. The reaction mixture was then diluted with CH2Cl2 (100 ml). The resulting solution was washed with saturated aqueous NaHCO3 (100 ml), water (50 ml) and saturated aqueous NaCl (50 ml). The organic layer was separated, dried over MgSO4, filtered and concentrated to give the product ethyl 4-(3-((1R,2R)-2-aminocyclohexylamino)pyrrolidin-1-yl)benzoate (1 g, 3.02 mmol, 57.2% yield) as brown solid. Anal. Calcd. for C19H29N3O2 m/z 331.4, found: 332.1 (M+H)+.

reactant | ethyl 4-(3-oxopyrrolidin-1-yl)benzoate | 5.27 mmol, 1.23 g | O=C1CN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C13H15NO3
reactant | (1R,2R)-cyclohexane-1,2-diamine | 5.27 mmol, 0.602 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | Na2SO4 | 2.5 gm | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium triacetoxy borohydride | 9.49 mmol, 2.012 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | HOAc | 1 ml | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-(3-((1R,2R)-2-aminocyclohexylamino)pyrrolidin-1-yl)benzoate | 3.02 mmol, 1 g, 57.2% yield | N[C@H]1[C@@H](CCCC1)NC1CN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C19H29N3O2
